US07482341B2
Step A]: N-[6-(4-Chloro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide
This material was prepared in analogy to example 86 step A] from N-(6-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide (0.73 g) and 4-chlorobenzyl bromide as a yellow oil (0.868 g). MS (ESI): 332.2 (MH+).

reactant | N-(6-hydroxymethyl-pyridin-2-yl)-2,2-dimethyl-propionamide | 0.73 g | OCC1=CC=CC(=N1)NC(C(C)(C)C)=O | C11H16N2O2
reactant | 4-chlorobenzyl bromide | 0.868 g | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
product | N-[6-(4-Chloro-benzyloxymethyl)-pyridin-2-yl]-2,2-dimethyl-propionamide | ClC1=CC=C(COCC2=CC=CC(=N2)NC(C(C)(C)C)=O)C=C1 | C18H21ClN2O2
